US05585385
2,3-Thiophenedicarboxylic anhydride was allowed to react with 2-methylphenyl magnesium bromide in THF, and the reaction mixture was processed to give 3-(2-methylbenzoyl)-2-thiophenecarboxylic acid as colorless crystals.

reactant | 2,3-Thiophenedicarboxylic anhydride | S1C2=C(C=C1)C(=O)OC2=O | C6H2O3S
reactant | 2-methylphenyl magnesium bromide | CC1=C(C=CC=C1)[Mg]Br
solvent | THF | C1CCOC1 | C4H8O
product | 3-(2-methylbenzoyl)-2-thiophenecarboxylic acid | CC1=C(C(=O)C2=C(SC=C2)C(=O)O)C=CC=C1 | C13H10O3S
